US05262420
Preparation of 1-(4-fluorophenyl)-3-(4-pyridyl)-butane
1.0 g (9.35 mmol) of 4-ethylpyridine and 1.90 g (9.35 mmol) of 4-fluorophenethyl bromide were reacted in the same manner as in Example 1. The reaction product was purified to obtain 1.67 g of the desired compound (yield: 77.9%). The resulting compound was identified as 1-(4-fluorophenyl)-3-(4-pyridyl)-butane (hereinafter referred to as compound 5) by the following analytical results.

reactant | 4-ethylpyridine | 9.35 mmol, 1.0 g | C(C)C1=CC=NC=C1 | C7H9N
reactant | 4-fluorophenethyl bromide | 9.35 mmol, 1.90 g | FC1=CC=C(CCBr)C=C1 | C8H8BrF
product | 1-(4-fluorophenyl)-3-(4-pyridyl)-butane | 1.67 g, yield: 77.9% | FC1=CC=C(C=C1)CCC(C)C1=CC=NC=C1 | C15H16FN
